US06989467B2
Synthesis of 3,5-dimethoxy-4-vinylphenol (by microwave irradiation method):
A mixture of 4-hydroxy-3,5-dimethoxy benzaldehyde (2.5 g, 0.013 mol), malonic acid (2.80 g, 0.027 mol), piperidine (2–5 mL) and formic acid (10–20 mL) were taken in a 100 ml Erlenmeyer flask fitted with a loose funnel at the top. The flask was shaken well and placed inside the microwave oven and irradiated for 2–8 minutes in parts. The cooled mixture was poured into ice cold water and extracted with ethyl acetate. The organic layer was washed with dil HCl., saturated sodium chloride and then organic layer dried over sodium sulphate. The solvent was evaporated under reduced pressure to obtain liquid which was purified on silica gel column chromatography using mixture of hexane and ethyl acetate (9:1 to 6:4), provided a viscous liquid in 37% yield; 1H NMR (CDCl3) δ 6.73(1H, s, H-3 and H-5), 6.62 (1H, dd, CH═CH2) 5.61 (1H, d, J=18.6 Hz, cis-CH═CH2), 5.16(1H, d, J=10.8, trans-CH═CH2); 13C NMR (CDCl3) δ 147.4 (C-2) and C-6), 137.2 (C-1), 135.1 (CH═CH2), 129.5 (C-4), 112.2 (CH═CH2), 103.3 (C-3 and C-5), 56.0 (2-OMe).

reactant | 4-hydroxy-3,5-dimethoxy benzaldehyde | 0.013 mol, 2.5 g | OC1=C(C=C(C=O)C=C1OC)OC | C9H10O4
reactant | malonic acid | 0.027 mol, 2.80 g | C(CC(=O)O)(=O)O | C3H4O4
reactant | piperidine | 2–5 mL | N1CCCCC1 | C5H11N
solvent | formic acid | 10–20 mL | C(=O)O | CH2O2
product | 3,5-dimethoxy-4-vinylphenol | 37% yield | COC=1C=C(C=C(C1C=C)OC)O | C10H12O3
